US09315521B2
To 4-methyl-1H-imidazole-5-carbaldehyde (5.0 g, 45.4 mmol) in anhydrous THF (50 mL) was added diaza(1,3)bicyclo[5.4.0]undecane (DBU, 6.8 mL, 45.4 mmol), and iodoethane (3.4 mL, 45.4 mmol). The mixture was stirred at room temperature overnight. Water (50 mL) was added before the THF was evaporated. The mixture was extracted with EtOAc (1×50 mL) and 2-butanol (2×50 mL). The organic extracts were combined, dried over MgSO4, filtered, evaporated, and dried in vacuo. The crude product was purified by flash chromatography (0-1% MeOH/DCM), affording 1-ethyl-4-methyl-1H-imidazole-5-carbaldehyde (806 mg, 13% yield).

reactant | 4-methyl-1H-imidazole-5-carbaldehyde | 45.4 mmol, 5.0 g | CC=1N=CNC1C=O | C5H6N2O
reactant | iodoethane | 45.4 mmol, 3.4 mL | ICC | C2H5I
reactant | Water | 50 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-ethyl-4-methyl-1H-imidazole-5-carbaldehyde | 806 mg, 13% yield | C(C)N1C=NC(=C1C=O)C | C7H10N2O
